US07700633B2
To a solution of N-(2-hydroxy-5-nitrophenyl)-formamide (26 g, 0.143 mol) in DMF (180 mL) is added potassium carbonate (22 g, 0.159-mol), followed by benzyl bromide (27 g, 0.158 mol) at 60° C. The mixture is stirred for 1.25 h. The mixture is diluted with water. The precipitated solid is separated by filtration and washed with 1N HCl, water and hexanes, and air dried for 18 h to afford N-(2-benzyloxy-5-nitrophenyl)-formamide as a white solid: (M−H)−=271.1.

reactant | N-(2-hydroxy-5-nitrophenyl)-formamide | 0.143 mol, 26 g | OC1=C(C=C(C=C1)[N+](=O)[O-])NC=O | C7H6N2O4
reactant | potassium carbonate | 0.159-mol, 22 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.158 mol, 27 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 180 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-(2-benzyloxy-5-nitrophenyl)-formamide | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])NC=O | C14H12N2O4
